US08110575B2
Step 2: N-benzyl-6-chloro-N-(2,2,2-trifluoroethyl)pyrimidine-4-carboxamide
1.04 g (5.5 mmol) benzyl-(2,2,2-trifluoroethyl)-amine and 5.5 mL (5.5 mmol) of a 1M sodium hydroxide solution were added dropwise to 1.0 g (5.65 mmol) 6-chloropyrimidine-4-carboxylic acid chloride in 20 mL dichloromethane while cooling with a bath of ice and ethanol. The mixture was first stirred for 2 h with cooling and then for 1 h at RT. 50 mL of a saturated sodium hydrogen carbonate solution were added and the mixture was stirred for 10 min. The organic phase was separated off, washed with water and 1M hydrochloric acid, dried on sodium sulphate, filtered and evaporated down i.vac.

reactant | benzyl-(2,2,2-trifluoroethyl)-amine | 5.5 mmol, 1.04 g | C(C1=CC=CC=C1)NCC(F)(F)F | C9H10F3N
reactant | sodium hydroxide | 1M | [OH-].[Na+]
reactant | 6-chloropyrimidine-4-carboxylic acid chloride | 5.65 mmol, 1.0 g | ClC1=CC(=NC=N1)C(=O)Cl | C5H2Cl2N2O
reactant | sodium hydrogen carbonate | 50 mL | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | N-benzyl-6-chloro-N-(2,2,2-trifluoroethyl)pyrimidine-4-carboxamide | C(C1=CC=CC=C1)N(C(=O)C1=NC=NC(=C1)Cl)CC(F)(F)F | C14H11ClF3N3O
